US04100137
A butadiene-styrene-hydroxyethyl acrylate polymer was prepared by conventional free radical emulsion polymerization techniques using a mixed fatty acid -- rosin acid soap, a ferrous-formaldehyde-sulfoxalate activator, an organic hydroperoxide catalyst and a thiocarbamate shortstop. The polymerization temperature was 5° C. One part by weight of hydroxyethyl acrylate was present initially, a further one part was added at 20% conversion and a further one part was added at 40% conversion. The polymerization was stopped at 62% conversion after 6.5 hours polymerization time. The recovered polymer contained about 2.9 weight percent of hydroxyethyl acrylate and had a Mooney (ML-4 at 100 C) of about 60.

reactant | rosin acid | CC(C)C1=CC2=CC[C@@H]3[C@@]([C@H]2CC1)(CCC[C@@]3(C)C(=O)O)C | C20H30O2
reactant | thiocarbamate | C(N)([O-])=S
reactant | hydroxyethyl acrylate | C(C=C)(=O)OCCO | C5H8O3
catalyst | hydroperoxide | [O-]O
product | butadiene styrene hydroxyethyl acrylate | C=CC=C.C=CC1=CC=CC=C1.C(C=C)(=O)OCCO | InChI=1S/C8H8.C5H8O3.C4H6/c1-2-8-6-4-3-5-7-8;1-2-5(7)8-4-3-6;1-3-4-2/h2-7H,1H2;2,6H,1,3-4H2;3-4H,1-2H2
